US05889002
(S)-6-Chloro-3-(1-phenylethyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and L-α-methylbenzyl isothiocyanate by a procedure analogous to the procedure described in example 3Bc-d; mp 195°-204° C. (ethyl acetate), 1H-NMR (DMSO-d6): δ 1.46 (d, 3H), 4.95 (m, 1H), 7.1 (s, 1H), 7.2-7.45 (m, 5H), 7.78 (br. s, 1H), 10.85 (s, 1H).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | L-α-methylbenzyl isothiocyanate | CC(C1=CC=CC=C1)N=C=S | C9H9NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-6-Chloro-3-(1-phenylethyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | ClC1=CC=2NC(=NS(C2S1)(=O)=O)N[C@@H](C)C1=CC=CC=C1 | C13H12ClN3O2S2
